US06143907
A solution of (+)(1S,2R,3S)-3-(2-carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid in absolute ethanol/water (12 to 1) was titrated to pH=11-12 with 1.25 N sodium hydroxide solution then after stirring for 15 minutes, concentrated to an oil. Absolute ethanol was added and the solution reconcentrated to a solid which was triturated with hexane, and filtered. The solid was dried to constant weight to afford (+)(1S,2R,3S)-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid disodium salt.

reactant | (+)(1S,2R,3S)-3-(2-carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | C(=O)(O)COC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C29H28O9
reactant | sodium hydroxide | 1.25 N | [OH-].[Na+]
solvent | ethanol water | C(C)O.O
product | (+)(1S,2R,3S)-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid disodium salt | [Na+].[Na+].C(=O)(O)COC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)[O-].C(=O)(O)COC2=C(C=CC(=C2)OC)[C@H]2[C@@H]([C@H](C1=CC=C(C=C21)OCCC)C2=CC1=C(C=C2)OCO1)C(=O)[O-] | InChI=1S/2C29H28O9.2Na/c2*1-3-10-35-18-6-7-19-21(12-18)27(20-8-5-17(34-2)13-23(20)36-14-25(30)31)28(29(32)33)26(19)16-4-9-22-24(11-16)38-15-37-22;;/h2*4-9,11-13,26-28H,3,10,14-15H2,1-2H3,(H,30,31)(H,32,33);;/q;;2*+1/p-2/t2*26-,27+,28+;;/m00../s1
